// Copyright (c) 2021 Arm Ltd.
// All rights reserved.
//
// SPDX-License-Identifier: BSD-3-Clause

// example PMA MTJ testbench

simulator lang=spectre
global 0

include "../mram_lib/mtj_subcircuit.scs"


parameters 
+ i_dc=0e-6
+ i_pulse_ap2p=-35e-6
+ w_pulse=50e-9
+ input_delay=-2e-9
+ temp_celsius=26.85
+ do_thermal=0
+ do_theta_windowing=0
+ do_fake_thermal=0
+ sim_pivrel=0.1
+ sim_rtol=1e-4
+ sim_atol=1e-8
+ maxstep=1e-12
+ method=traponly
// + method=gear2only
// [noise]
// + sim_rtol=1e-2
// + sim_atol=1e-5


// AP->P
// IDC0 0 e0 isource type=dc dc=i_dc
// (pl, fl) pl first to keep sm2tj compatibility
ITRAN0 0 e0 isource type=pulse dc=i_dc val0=0 val1=-i_pulse_ap2p width=w_pulse rise=2n delay=input_delay
// __H_EXT__ MTJ_ap2p (e0 0 h_ext_x h_ext_y h_ext_z)\
// __NO_H_EXT__
mtj_ap2p (e0 0 mz 0 0 0) mtj_subcircuit
	+ p_do_thermal=do_thermal
	+ p_do_theta_windowing=do_theta_windowing
	+ p_do_fake_thermal=do_fake_thermal
	+ p_atol=sim_atol


////////////////////////////////////////////
// sim options
highVoltageOptions options highvoltage=yes bin_relref=yes

simulatorOptions options \
    temp=(temp_celsius) \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 \
    reltol=sim_rtol \
    // [noise] for noise sim
    // vabstol=1e-2 iabstol=1e-3 \
    // others, not needed
    // vabstol=sim_atol iabstol=sim_atol \
    // pivrel=sim_rtol \
    //sensfile="../psf/sens.output" \
    // checklimitdest=psf 

finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
// designParamVals info what+ eters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
// save all options
saveOptions options save=all subcktprobelvl=3 saveahdlvars=all exportfile="./exported_test.data"
// save selected options
// saveOptions options save=selected subcktprobelvl=3 saveahdlvars=selected exportfile="./exported_test.data"
// required by export

// parameters to adjust

// simulate with traponly ++aps for calibrated model

// tran_tt tran stop=(2*input_delay + w_pulse) write="spectre.ic" writefinal="spectre.fc" \
tran_tt tran stop=(50n) write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 \
    method=method \
    // maxstep=maxstep \
    // step=maxstep \
